US07960409B2
(S)-4-(3,5-dichlorophenyl)-7-({4-[1-hydroxy-1-(trifluoromethyl)propyl]-1H-1,2,3-triazol-1-yl}methyl)quinoline-2-carbonitrile
To a solution of (S)-1-{1-[(4-chloro-2-cyanoquinolin-7-yl)methyl]-1H-1,2,3-triazol-4-yl}-1-(trifluoromethyl)propyl 4-nitrobenzoate (150 mg, 0.28 mmol) in DME (3 mL) was added tetrakis(triphenylphosphine)palladium (16 mg, 0.014 mmol), 3,5-dichlorophenylboronic acid (80 mg, 0.42 mmol) and aq. 2M Na2CO3 (0.42 mL, 0.84 mmol). After 1.5 h at 100° C., the reaction was quenched with water and extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated under reduce pressure. To this crude product was added THF (4 mL) and LiOH IM (1.4 mL, 1.4 mmol). After 2 h at rt, the reaction was quenched with saturated aqueous NH4Cl and extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated under reduce pressure. Purification on silica gel (eluting with EtOAc/hexanes, 3:7) gave the title compound. MS (+ESI): 506 (M+H)+.

reactant | (S)-1-{1-[(4-chloro-2-cyanoquinolin-7-yl)methyl]-1H-1,2,3-triazol-4-yl}-1-(trifluoromethyl)propyl 4-nitrobenzoate | 0.28 mmol, 150 mg | [N+](=O)([O-])C1=CC=C(C(=O)O[C@](CC)(C(F)(F)F)C=2N=NN(C2)CC2=CC=C3C(=CC(=NC3=C2)C#N)Cl)C=C1 | C24H16ClF3N6O4
reactant | 3,5-dichlorophenylboronic acid | 0.42 mmol, 80 mg | ClC=1C=C(C=C(C1)Cl)B(O)O | C6H5BCl2O2
reactant | Na2CO3 | 0.84 mmol, 2M, 0.42 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 3 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.014 mmol, 16 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-4-(3,5-dichlorophenyl)-7-({4-[1-hydroxy-1-(trifluoromethyl)propyl]-1H-1,2,3-triazol-1-yl}methyl)quinoline-2-carbonitrile | ClC=1C=C(C=C(C1)Cl)C1=CC(=NC2=CC(=CC=C12)CN1N=NC(=C1)[C@@](CC)(C(F)(F)F)O)C#N | C23H16Cl2F3N5O
